US09233956B2
Step A: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-piperidinesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 3-(5-(2-chloropyrimidin-4-yl)-2-morpholinothiazol-4-yl)-2-fluoroaniline (200 mg, 0.510 mmol) and 1-piperidinesulfonyl chloride (0.201 mL, 1.531 mmol) the title compound of Step A was obtained as a yellow foam (193 mg, 41% and 29% yield, repeated twice). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.72 (s, 1H), 8.15-8.44 (m, 1H), 7.45-7.67 (m, 1H), 7.22-7.42 (m, 2H), 6.61 (d, J=5.4 Hz, 1H), 3.68 (t, J=4.7 Hz, 4H), 3.52 (t, J=4.7 Hz, 4H), 3.03 (t, J=5.0 Hz, 4H), 1.24-1.66 (m, 6H).

reactant | 3-(5-(2-chloropyrimidin-4-yl)-2-morpholinothiazol-4-yl)-2-fluoroaniline | 0.510 mmol, 200 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(N)C=CC1)F | C17H15ClFN5OS
reactant | 1-piperidinesulfonyl chloride | 1.531 mmol, 0.201 mL | N1(CCCCC1)S(=O)(=O)Cl | C5H10ClNO2S
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-piperidinesulfonamide | 29% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)N1CCCCC1)F | C22H24ClFN6O3S2
